* Frozen netlist snapshot for record 20260915-201217-930b239
* sources    : lock_detector.spice + tb_lock_window.sp (composed at record time, in this order)
* sha256     : 2903f1f1100b359052f45e9ae8b25d7d1fbb13ea433aec467311e83330296bc4 (of this composed text)
* This is a verbatim composition taken at record time. Do not edit.

* ---- design/netlist/lock_detector.spice (sha256 80f0b5c19fd572684139db38ad85a202091b22180f1df127218e0342687f42cc)
* gf180-pll :: lock_detector -- generated by design/netlist.sh from lock_detector.sch
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/lock_detector.sch
.subckt lock_detector UP DN LOCK VWIN VDD VSS
*.ipin UP
*.ipin DN
*.opin LOCK
*.opin VWIN
*.iopin VDD
*.iopin VSS
XERR UP DN ERR VDD VSS xor2_3v3
XDLY ERR ERRD VDD VSS delaywin_3v3
XNW ERR ERRD WIDEB VDD VSS nand2_3v3
XIW WIDEB WIDE VDD VSS inv_3v3
XMDNW VWIN WIDE VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMUPW VWIN VSS VDD VDD pfet_03v3 L=20u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCW VSS VWIN VSS VSS nfet_03v3 L=6u W=30u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XSCH VWIN LOCKB VDD VSS schmitt_3v3
XILK LOCKB LOCK VDD VSS inv_3v3
.ends

* expanding   symbol:  xor2_3v3.sym # of pins=5
** sym_path: design/xor2_3v3.sym
** sch_path: design/xor2_3v3.sch
.subckt xor2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XG1 A B N1 VDD VSS nand2_3v3
XG2 A N1 N2 VDD VSS nand2_3v3
XG3 B N1 N3 VDD VSS nand2_3v3
XG4 N2 N3 Y VDD VSS nand2_3v3
.ends


* expanding   symbol:  delaywin_3v3.sym # of pins=4
** sym_path: design/delaywin_3v3.sym
** sch_path: design/delaywin_3v3.sch
.subckt delaywin_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XI1 A D1 VDD VSS inv_3v3
XMC1 VSS D1 VSS VSS nfet_03v3 L=2u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI2 D1 D2 VDD VSS inv_3v3
XMC2 VSS D2 VSS VSS nfet_03v3 L=2u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI3 D2 D3 VDD VSS inv_3v3
XMC3 VSS D3 VSS VSS nfet_03v3 L=2u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI4 D3 Y VDD VSS inv_3v3
XMC4 VSS Y VSS VSS nfet_03v3 L=2u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  nand2_3v3.sym # of pins=5
** sym_path: design/nand2_3v3.sym
** sch_path: design/nand2_3v3.sch
.subckt nand2_3v3 A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XMPA Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMPB Y B VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNA Y A NMID VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB NMID B VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  inv_3v3.sym # of pins=4
** sym_path: design/inv_3v3.sym
** sch_path: design/inv_3v3.sch
.subckt inv_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN Y A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  schmitt_3v3.sym # of pins=4
** sym_path: design/schmitt_3v3.sym
** sch_path: design/schmitt_3v3.sch
.subckt schmitt_3v3 A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP1 P1 A VDD VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 Y A P1 VDD pfet_03v3 L=0.28u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 VSS Y P1 VDD pfet_03v3 L=0.28u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN1 N1 A VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN2 Y A N1 VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN3 VDD Y N1 VSS nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ---- sim/lock-window-sizing/testbench/tb_lock_window.sp (sha256 bb0bc1ad89f892dad2e93c376bb6217dddba6ebaf377cca6333eeb4a622fccf6)
* gf180-pll :: lock-window-sizing :: delaywin_3v3 window-sizing ladder (#387)
*
* ONE question, asked of the lock detector's window and nothing else: if
* design/delaywin_3v3.sch's four MOS-capacitor loads are scaled, where does
* the comparator window t_win land over the full 45-point PVT grid, and is
* there a sizing that holds t_win inside a stated two-sided band at EVERY
* corner at once?
*
* Why the window and not the integrating node.  spec/pll.md's "Lock detector"
* section names two candidate fixes for its T1/T2 gap -- "widen the delay
* window, or scale the integrating capacitor".  Only the first of those moves
* the threshold: WIDE = ERR . ERRD fires when the error pulse outlasts the
* ERR->ERRD delay, so the phase error at which the detector reacts is that
* delay and nothing else.  XMCW (the integrating cap) sets how many
* out-of-window pulses it takes to pull VWIN down and how long the weak
* pull-up needs to bring it back -- the assert/deassert TIME CONSTANTS, not
* the phase threshold.  This deck therefore characterises the delay chain
* alone; it deliberately does not instantiate lock_detector, because a
* full-detector deck would re-measure what
* sim/lock-detector/records/20260802-050119-c24ee3a.md already measured and
* would confound the sizing axis with the integrator's own dynamics.
*
* TWO copies share every transient:
*
*   XCTL  the COMMITTED delaywin_3v3 subcircuit, verbatim from
*         design/netlist/lock_detector.spice.  It is the control: its delay
*         must reproduce 20260802-050119-c24ee3a's own twin_r/twin_f at the
*         matching corner, which is what ties this record's baseline to the
*         already-committed characterisation rather than asserting agreement.
*
*   XVAR  a PARAMETERISED structural replica of the same chain -- four
*         inv_3v3 stages, each loaded by one nfet_03v3 wired drain = source =
*         bulk = VSS with gate on the delayed node, L = 2u as drawn, and W =
*         kwc swept.  Same leaf cells, same topology, same device flavour;
*         the ONLY difference from XCTL is that W is a parameter.  At
*         kwc = 8u the two are the same circuit, and the derived
*         repl_err_pct column below proves that point-by-point instead of
*         assuming it.
*
* Which edge IS the window.  ERR rises at t0 and falls at t0 + tau (tau = the
* phase error).  ERRD rises at t0 + twin_r and falls at t0 + tau + twin_f.
* WIDE = ERR . ERRD is therefore high over [t0 + twin_r, t0 + tau] and is
* non-empty exactly when tau > twin_r.  The discrimination threshold is
* twin_r; twin_f only sets how wide the resulting WIDE pulse is once the
* threshold has already been crossed.  twin_f is measured and reported anyway
* so the asymmetry is visible rather than assumed away.
*
* The stimulus is an IDEAL step (a 100 ps-edge voltage source), not a PFD
* pulse pair, for the same reason 20260802-050119-c24ee3a's own XW copy uses
* one: the quantity under test is a propagation delay, and driving it from a
* real XOR output would fold that gate's own corner-dependent edge rate into
* the number.
*
* Expects from the harness-generated header:
*   .lib <process corner section>, .temp <temp_c>
*   .param vdd_val=<supply volts>  vdd_nom=<nominal volts>
*   .param kwc=<swept MOS-cap width>  ktstep=<max timestep>  ktstop=<stop>
*
* design/netlist/lock_detector.spice is composed ahead of this fragment by
* the harness (tb.json "dut"), which is where delaywin_3v3, inv_3v3 and the
* rest of the leaf cells come from.

.param ttr='100p'
.param ttd='2n'
.param twide='ktstop/2'

vdd vdd 0 dc 'vdd_val'

* ---- the shared ideal step ------------------------------------------------
* One rising edge at ttd and one falling edge at ttd + twide, so a single
* transient yields both twin_r and twin_f.
vstep step 0 pulse(0 'vdd_val' 'ttd' 'ttr' 'ttr' 'twide' '1000*ktstop')

* ---- XCTL: the committed cell, as drawn -----------------------------------
xctl step octl vdd 0 delaywin_3v3

* ---- XVAR: structural replica with W = kwc --------------------------------
xv1 step   v1 vdd 0 inv_3v3
xmv1 0 v1 0 0 nfet_03v3 L=2u W='kwc' nf=1
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)'

xv2 v1     v2 vdd 0 inv_3v3
xmv2 0 v2 0 0 nfet_03v3 L=2u W='kwc' nf=1
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)'

xv3 v2     v3 vdd 0 inv_3v3
xmv3 0 v3 0 0 nfet_03v3 L=2u W='kwc' nf=1
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)'

xv4 v3   ovar vdd 0 inv_3v3
xmv4 0 ovar 0 0 nfet_03v3 L=2u W='kwc' nf=1
+ ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
